US08664217B2
N,N,N′,N′-Tetramethylazodicarboxamide(TMAD) (189 mg, 1.1 mmol) and tri-n-butyl phosphine (0.28 ml, 1.1 mmol) were added to a THF solution (5 ml) of 7-hydroxy-1-isobutyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (213 mg, 0.73 mmol) and 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propan-1-ol (199 mg, 0.73 mmol), and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1→10:1). The purified product was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=40:1→10:1) again. The purified product was concentrated under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution (0.57 ml) was added to the residue (ethyl acetate solution), stirred at room temperature for 30 minutes, and concentrated to dryness under reduced pressure to thereby obtain 480 mg (yield: quantitative) of 1-isobutyl-3,3,5-trimethyl-7-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione trihydrochloride as a white amorphous solid.

reactant | tri-n-butyl phosphine | 1.1 mmol, 0.28 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 7-hydroxy-1-isobutyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.73 mmol, 213 mg | OC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC(C)C)C=C1 | C16H22N2O3
reactant | 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propan-1-ol | 0.73 mmol, 199 mg | N1=CC(=CC=C1)CCN(CCCO)CC1=CC=NC=C1 | C16H21N3O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-isobutyl-3,3,5-trimethyl-7-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione trihydrochloride | 480 mg, yield: quantitative | Cl.Cl.Cl.C(C(C)C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(CC2=CC=NC=C2)CCC=2C=NC=CC2 | InChI=1S/C32H41N5O3.3ClH/c1-24(2)22-37-28-10-9-27(20-29(28)35(5)30(38)32(3,4)31(37)39)40-19-7-17-36(23-26-11-15-33-16-12-26)18-13-25-8-6-14-34-21-25;;;/h6,8-12,14-16,20-21,24H,7,13,17-19,22-23H2,1-5H3;3*1H
